US07919468B2
compound NR40. N-Boc-Tyr(Bn)-Ala-Trp-OMe (119 mg, 0.185 mmol) in solution in MeOH (4 mL) was hydrogenated overnight at atmospheric pressure in the presence of 10% Pd on charcoal (30 mg). After filtration, evaporation of the solvent and trituration with ether, N-Boc-Tyr-Ala-Trp-OMe (77 mg, 76%) was obtained as a solid. 1H NMR (300 MHz, DMSO-d6) δ 1.19 (d, J=7 Hz, 3H, CH3), 1.29 (s, 9H, (CH3)3), 2.55 and 2.80 (ABX system, 2H, CH2β), 3.13 and 3.16 (ABX system, 2H, CH2β), 3.55 (s, 3H, OCH3), 4.05 (m, 1H, CHα), 4.35 (m, 1H, CHα), 4.50 (m, 1H, CHα), 6.63 (d, J=8.3 Hz, 2H), 6.83 (d, J=8.6 Hz, 1H), 7.03 (m, 4H), 7.16 (d, J=2.1 Hz, 1H), 7.34 (d, J=7.9 Hz, 1H), 7.47 (d, J=7.8 Hz, 1H), 7.92 (d, J=7.4 Hz, 1H, NH), 8.32 (d, J=7.3 Hz, 1H, NH), 9.14 (s, 1H, OH), 10.86 (s, 1NH). 13C NMR (75 MHz, DMSO-d6) δ 18.4 (CH3); 26.9 (CH2 Trp), 28.1 ((CH3)3), 36.4 (CH2 Tyr), 47.8, 51.7, 53.0, 55.9 (CHα Ala, Tyr, Trp or OCH3), 77.9 (C(CH3)3), 109.1 (aromatic C), 111.4, 114.8, 117.9, 118.4, 120.9, 123.7 (aromatic CH), 127.0, 128.2 (aromatic C), 130.0 (aromatic CH), 136.0 (aromatic C), 155.2, 156.6 (Car-O or CO carbamate), 171.4, 172.0, 172.2 (2 CO amide or CO ester). Anal. Calcd. for C29H36N4O7, 1H2O: C, 61.04; H, 6.71; N, 9.82. Found: C, 61.02; H, 6.62; N, 9.66. HRMS (ESI) calcd for C29H36N4O7Na [(M+Na)+] 575.2482. Found 575.2480.

reactant | N-Boc-Tyr(Bn)-Ala-Trp-OMe | 0.185 mmol, 119 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC)C(=O)OC(C)(C)C | C36H42N4O7
solvent | MeOH | 4 mL | CO | CH4O
catalyst | Pd on charcoal | 30 mg | [Pd] | Pd
product | N-Boc-Tyr-Ala-Trp-OMe | 77 mg, 76% | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC)C(=O)OC(C)(C)C | C29H36N4O7
